US09108921B2
Step B: methyl 2-cyano-4-nitrobenzoate (30C)
A mixture of methyl 2-chloro-4-nitrobenzoate (2 g, 9.3 mmol), CuCN (3.3 g, 37.2 mmol), and Pd(PPh3)4 (1.075 g, 0.93 mmol) was suspended in DMF (15 mL) and then subjected to microwave irradiation at 150° C. for 4 hours. After the mixture was concentrated under reduced pressure, the residue was partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4, filtered, and the filtrate was evaporated to dryness under reduced pressure. The crude material was purified by column chromatography (20% EA/PE) to afford 0.9 g of title compound. LC-MS: m/z 207.1 (M+H)+.

reactant | methyl 2-chloro-4-nitrobenzoate | 9.3 mmol, 2 g | ClC1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | CuCN | 37.2 mmol, 3.3 g | C(#N)[Cu]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.93 mmol, 1.075 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-cyano-4-nitrobenzoate | 0.9 g | C(#N)C1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C9H6N2O4
